US06514968B1
Preparation 24 9-Benzyl-6-chloro-9H-carbazol-4-ol
Pyridinium bromide perbromide (0.5495 g, 0.0017 mol) is added to a solution of 9-benzyl-6-chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.4406 g, 0.0014 mol) in THF (2.8 mL) and DMF (1.5 mL) and the mixture is heated to 75° C. After stirring for 5 h, THF is removed under reduced pressure and the residue is partitioned between dichloromethane and brine. The combined organic layers are washed with dilute sodium thiosulfate/brine and the aqueous layer is backwashed with dichloromethane. The combined organic layers are dried over magnesium sulfate and concentrated under reduced pressure to give a residue. A mixture of the resulting residue, lithium bromide (0.2799 g, 0.0032 mol), lithium carbonate (0.2286 g, 0.0031 mol) and DMF (6 mL) is heated at 120° C. for two hours. The DMF is removed under high vacuum and the residue is partitioned between dichloromethane and water. The combined organic layers are dried over sodium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (100 mL) using dichloromethane (100%) to give 0.3139 g (72%) of the title compound. An aliquot (0.0391) is recrystallized from dichloromethane/methanol/hexane to give 0.0272 g of product; MS (ESI−) for C19H14ClNO m/z 306.0 (M−H)−; IR (drift) 1470, 1452, 1334, 1293, 1284, 1266, 1231, 1146, 1112, 885, 796, 777, 746, 717, 702 cm−1; 1H NMR (CDCl3) δ5.41, 5.49, 6.60, 6.97, 7.13, 7.28, 7.35, 8.33. Anal. Calcd for C19H14ClNO: C, 74.15; H, 4.59; N, 4.55; Cl, 11.52. Found: C, 73.07; H, 4.63; N, 4.59.

reactant | Pyridinium bromide perbromide | 0.0017 mol, 0.5495 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 9-benzyl-6-chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0014 mol, 0.4406 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(CCCC12)=O)Cl | C19H16ClNO
reactant | lithium bromide | 0.0032 mol, 0.2799 g | [Br-].[Li+]
reactant | lithium carbonate | 0.0031 mol, 0.2286 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 9-Benzyl-6-chloro-9H-carbazol-4-ol | 0.3139 g, 72% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)O)Cl | C19H14ClNO
